US07745475B2
3-Chloro-4-fluoro-N,N-dimethylbenzenesulfonamide
A solution of 2M dimethylamine in THF (5.9 mL, 12 mmol) was diluted with DCM (25 mL) and cooled to 0° C. DIPEA (2.8 mL) was added, followed by and 3-chloro-4-fluorobenzenesulfonyl chloride (2.5 g, 11 mmol) in DCM (25 mL). The resulting mixture was allowed to warm to rt and stirred for 3 hours. Water (5 mL) and 1M hydrochloric acid (16 mL) was added. The organic phase was separated and evaporated under reduced pressure to afford the title compound (2.4 g, 94%).

reactant | dimethylamine | 2M | CNC | C2H7N
reactant | THF | 12 mmol, 5.9 mL | C1CCOC1 | C4H8O
reactant | DIPEA | 2.8 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 3-chloro-4-fluorobenzenesulfonyl chloride | 11 mmol, 2.5 g | ClC=1C=C(C=CC1F)S(=O)(=O)Cl | C6H3Cl2FO2S
reactant | hydrochloric acid | 1M, 16 mL | Cl | ClH
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | Water | 5 mL | O | H2O
product | 3-Chloro-4-fluoro-N,N-dimethylbenzenesulfonamide | 2.4 g, 94% | ClC=1C=C(C=CC1F)S(=O)(=O)N(C)C | C8H9ClFNO2S
